US04713474
A similar procedure to Example 1 is carried out by using 15.2 g of methyl p-hydroxybenzoate and 12 g of sebacic acid dichloride to yield di(p-methyloxycarbonylphenyl)sebacate, m.p. 109.5°-110.5° C., as white crystals.

reactant | methyl p-hydroxybenzoate | 15.2 g | COC(=O)C=1C=CC(=CC1)O | C8H8O3
reactant | sebacic acid dichloride | 12 g | C(CCCCCCCCC(=O)Cl)(=O)Cl | C10H16Cl2O2
product | di(p-methyloxycarbonylphenyl)sebacate | COC(=O)C1=CC=C(C=C1)OC(CCCCCCCCC(=O)OC1=CC=C(C=C1)C(=O)OC)=O | C26H30O8
